US08314100B2
1-[(6-Chloro-2-methoxyquinoxalin-3-yl)aminocarbonyl]-4-(3,4,5-trimethoxyphenyl)piperazine (Compound 27)
Ethyl N-(6-chloro-2-methoxyquinoxalin-3-yl)carbamate and 1-(3,4,5-trimethoxyphenyl)piperazine were reacted by the same way with the example 22 to obtain the titled compound (yield, 84%). 1H NMR (300 MHz, CDCl3): 3.17-3.25 (m, 4H), 3.81-3.86 (m, 12H), 4.09-4.16 (m, 4H), 6.21 (s, 2H), 7.21-7.30 (m, 1H), 7.33-7.54 (m, 1H), 7.58-7.69 (m, 1H), 7.81 (s, 1H).

reactant | Ethyl N-(6-chloro-2-methoxyquinoxalin-3-yl)carbamate | ClC=1C=C2N=C(C(=NC2=CC1)OC)NC(OCC)=O | C12H12ClN3O3
reactant | 1-(3,4,5-trimethoxyphenyl)piperazine | COC=1C=C(C=C(C1OC)OC)N1CCNCC1 | C13H20N2O3
product | 1-[(6-Chloro-2-methoxyquinoxalin-3-yl)aminocarbonyl]-4-(3,4,5-trimethoxyphenyl)piperazine | 84% | ClC=1C=C2N=C(C(=NC2=CC1)OC)NC(=O)N1CCN(CC1)C1=CC(=C(C(=C1)OC)OC)OC | C23H26ClN5O5
